US07582761B2
(a) Piperazine-1,2,4-tricarboxylic acid 1,4-dibenzyl ester
Benzyl chloroformate (3.1 mL, 22 mmol, Aldrich) was added dropwise over a period of 5 min to a mixture of piperazine-2-carboxylic acid dihydrochloride (2.03 g, 10 mmol, Aldrich) and Na2CO3 (4.24 g, 40 mmol) in water (10 mL) with stirring at 0° C. The mixture was stirred at 0° C. for 1 h, 2N HCl (10 mL) was added and the mixture was extracted with EtOAc (3×40 mL). The combined organic extracts were washed with water (10 mL) and brine (20 mL), dried over Na2SO4, and filtered. The filtrate was evaporated in vacuo to give the title compound as a gum, which was used for the next step without additional purification. MS (ESI, pos. ion) m/e: 399 (M+l).

reactant | Benzyl chloroformate | 22 mmol, 3.1 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | piperazine-2-carboxylic acid dihydrochloride | 10 mmol, 2.03 g | Cl.Cl.N1C(CNCC1)C(=O)O
reactant | Na2CO3 | 40 mmol, 4.24 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 2N, 10 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
product | Piperazine-1,2,4-tricarboxylic acid 1,4-dibenzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)O | C21H22N2O6
